US04640915
A mixture of 4-nitrobenzyl (5R,6R)-3-(2-aminophenylthio)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (490 mg) and platinum (IV) oxide monohydrate (200 mg) in a mixture of dioxane (60 ml), ethanol (5 ml), 0.1M aqueous dipotassium hydrogen phosphate (22.7 ml) and water (25 ml) was shaken for 50 minutes under a hydrogen atmosphere (40 psi) at ambient temperature. The catalyst was filtered off and the filtrate was concentrated to half of the original volume. The aqueous concentrate was washed three times with diethyl ether and evaporated in vacuo. The residue was dissolved in water (250 ml), and potassium chloride (12.5 g) was added thereto. The aqueous solution was chromatographed on non-ionic adsorption resin "Diaion HP-20 AG" (3.1×33 cm) eluting with water (1 liter) and aqueous isopropyl alcohol (5 to 30%, 1 liter). The fractions, whose UV spectra showed λ max 303 nm, were combined and lyophilized to give potassium (5R, 6R)-3-(2-aminophenylthio)-6-(1-hydroxy-1-methylethyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (130 mg).

reactant | 4-nitrobenzyl (5R,6R)-3-(2-aminophenylthio)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 490 mg | NC1=C(C=CC=C1)SC1=C(N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C31H28N4O10S
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | dipotassium hydrogen phosphate | 0.1M, 22.7 ml | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | water | 25 ml | O | H2O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | platinum (IV) oxide monohydrate | 200 mg | O.[Pt](=O)=O
product | potassium (5R, 6R)-3-(2-aminophenylthio)-6-(1-hydroxy-1-methylethyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 130 mg | NC1=C(C=CC=C1)SC1=C(N2C([C@H]([C@H]2C1)C(C)(C)O)=O)C(=O)[O-].[K+] | InChI=1S/C16H18N2O4S.K/c1-16(2,22)12-9-7-11(13(15(20)21)18(9)14(12)19)23-10-6-4-3-5-8(10)17;/h3-6,9,12,22H,7,17H2,1-2H3,(H,20,21);/q;+1/p-1/t9-,12+;/m1./s1
